US07361672B2
47.2 To a stirred suspension of 3.9 g (4-{2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-thiazol-2-yl)-carbamic acid tert-butyl ester was added 40 ml of 33% HBr in acetic acid. The reaction mixture was stirred at r.t. for 4 h. The mixture was left overnight in the fridge. Then it was concentrated to leave an off-white solid which was suspended in 50 ml Et2O, triturated and stirred at r.t. for 3 h. The product was collected by filtration, washed with Et2O and dried to give 5.6 g 2-(2-amino-thiazol-4-yl)-1-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-ethanone trihydrobromide. Off-white solid. MS 324.4 ([M+H]+)

reactant | (4-{2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-thiazol-2-yl)-carbamic acid tert-butyl ester | 3.9 g | C(C)(C)(C)OC(NC=1SC=C(N1)CC(=O)N1CCN(CC1)C1CCN(CC1)C)=O | C20H33N5O3S
reactant | HBr | 40 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | Et2O | 50 ml | CCOCC | C4H10O
product | 2-(2-amino-thiazol-4-yl)-1-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-ethanone trihydrobromide | 5.6 g | Br.Br.Br.NC=1SC=C(N1)CC(=O)N1CCN(CC1)C1CCN(CC1)C | InChI=1S/C15H25N5OS.3BrH/c1-18-4-2-13(3-5-18)19-6-8-20(9-7-19)14(21)10-12-11-22-15(16)17-12;;;/h11,13H,2-10H2,1H3,(H2,16,17);3*1H
